US04812463
4-bromophenylthiomethanesulfonamide
A suspension of 1.4 g of a 60% sodium hydride/oil dispersion was prepared in 10 ml of dry DMSO, under an atmosphere of nitrogen. 4-Bromothiophenol (6.5 g) was dissolved in 11 ml of dry DMSO and added slowly to the above suspension. When frothing had subsided 6.0 g of bromomethanesulfonamide was added and the reaction mixture was heated to 80° C. for 2 hours. The reaction mixture was cooled to room temperature and poured into 150 ml of ethyl acetate, filtered from a solid and extracted with brine. The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The resultant residue was recrystallized from toluene to yield 7.9 g (81.4%) of product.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-Bromothiophenol | 6.5 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | bromomethanesulfonamide | 6.0 g | BrCS(=O)(=O)N | CH4BrNO2S
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
reactant | DMSO | 11 ml | CS(=O)C | C2H6OS
product | 4-bromophenylthiomethanesulfonamide | 7.9 g, 81.4% | BrC1=CC=C(C=C1)CS(=O)(=S)N | C7H8BrNOS2
